US05143920
3-Butyryl-4-chloro-6-benzoyloxy-8-methoxyquinoline (6.0 g) and 4-amino-m-cresol (2.0 g) were heated together under reflux in 1,4-dioxan (100 ml) for 2 hours. The solvent was evaporated and the residue heated on a steam bath in 10% methanolic potassium hydroxide for ten minutes. The solution was neutralized with 5M HCl and extracted several times with dichloromethane. The combined extracts were dried and evaporated to give 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-6-hydroxy-8-methoxyquinoline (4.0 g, 70%) m.p. 251°-253°.

reactant | 3-Butyryl-4-chloro-6-benzoyloxy-8-methoxyquinoline | 6.0 g | C(CCC)(=O)C=1C=NC2=C(C=C(C=C2C1Cl)OC(C1=CC=CC=C1)=O)OC | C21H18ClNO4
reactant | 4-amino-m-cresol | 2.0 g | NC=1C(=CC(=CC1)O)C | C7H9NO
solvent | 1,4-dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-6-hydroxy-8-methoxyquinoline | 4.0 g, 70% | C(CCC)(=O)C=1C=NC2=C(C=C(C=C2C1NC1=C(C=C(C=C1)O)C)O)OC | C21H22N2O4
